US03969463
4-Chloro-6-methoxy-2-trifluoromethylquinoline was reduced with platinum on carbon to give 6-methoxy-2-trifluoromethyltetrahydroquinoline.

reactant | 4-Chloro-6-methoxy-2-trifluoromethylquinoline | ClC1=CC(=NC2=CC=C(C=C12)OC)C(F)(F)F | C11H7ClF3NO
catalyst | platinum on carbon | [Pt] | Pt
product | 6-methoxy-2-trifluoromethyltetrahydroquinoline | COC=1C=C2CCC(NC2=CC1)C(F)(F)F | C11H12F3NO
